US06784192B2
4-[(E)-2-[2-(Cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine
2.026 g of 1-(vinyloxycarbonyl)-4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine was suspended in 20 ml of a 10% hydrogen chloride-methanol solution, and the mixture was stirred for 20 minutes under ice-cooling. After stirring for 15 minutes at room temperature, the mixture was heated under reflux for one hour 10 minutes. The solvent was evaporated, and to the residue was added an aqueous saturated sodium bicarbonate. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and to the residue was added n-heptane. The insoluble matters were filtered off, and the filtrate was evaporated, to give 1.556 g of the title compound as a colorless oil.

reactant | 1-(vinyloxycarbonyl)-4-[(E)-2-[(2-cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine | 2.026 g | C(=C)OC(=O)N1CCC(CC1)\C=C\C1=C(C=CC=C1)OCC1CCCCC1 | C23H31NO3
reactant | hydrogen chloride methanol | Cl.CO
product | 4-[(E)-2-[2-(Cyclohexylmethyloxy)phenyl]-1-ethenyl]piperidine | 1.556 g | C1(CCCCC1)COC1=C(C=CC=C1)/C=C/C1CCNCC1 | C20H29NO
